US07732456B2
(3) Preparation of 4-benzyloxy-1-{4-[2-(1-pyrrolidinyl)ethoxy]phenyl}-1H-pyridin-2-one
4-Benzyloxy-1-(4-hydroxyphenyl)-1H-pyridin-2-one (200 mg, 0.682 mmol), 2-(1-pyrrolidine)ethanol (0.10 mL, 0.82 mmol), tri-n-butylphosphine (0.51 mL, 2.05 mmols) and 1,1′-(azodicarbonyl)dipiperidine (515 mg, 2.05 mmols) were stirred in THF (10 mL) at room temperature for an hour. Ethyl acetate was added to the reaction liquid, washed with saturated aqueous sodium bicarbonate solution and saturated brine, and dried over anhydrous potassium carbonate. Concentrating the solvent under reduced pressure, and the remaining residue was purified on silica gel column chromatography (C-300, methanol:chloroform=1:10) to provide the title compound (189 mg, 71%).

reactant | 4-Benzyloxy-1-(4-hydroxyphenyl)-1H-pyridin-2-one | 0.682 mmol, 200 mg | C(C1=CC=CC=C1)OC1=CC(N(C=C1)C1=CC=C(C=C1)O)=O | C18H15NO3
reactant | tri-n-butylphosphine | 2.05 mmols, 0.51 mL | C(CCC)P(CCCC)CCCC | C12H27P
reactant | 1,1′-(azodicarbonyl)dipiperidine | 2.05 mmols, 515 mg | N(=NC(=O)N1CCCCC1)C(=O)N1CCCCC1 | C12H20N4O2
reactant | Ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | THF | 10 mL | C1CCOC1 | C4H8O
product | 4-benzyloxy-1-{4-[2-(1-pyrrolidinyl)ethoxy]phenyl}-1H-pyridin-2-one | 189 mg, 71% | C(C1=CC=CC=C1)OC1=CC(N(C=C1)C1=CC=C(C=C1)OCCN1CCCC1)=O | C24H26N2O3
